US04889553
(a) 3-Benzylthio-5-methylthio-1,2,4-triazole
A solution of sodium hydroxide (16 g) in water (60 ml) was added to a suspension of 3-benzylthio-5-mercapto-1,2,4-triazole (89.2 g) in dichloromethane (400 ml) containing benzyltriethylammonium chloride (1 g) with stirring and cooling to 15°-20° C. To this mixture methyl iodide (56.8 g) was added, and stirring was continued at room temperature for 24 hours. The dichloromethane phase was separated, washed with water twice, dried over magnesium sulphate and run down to give 94 g of crude product, which was recrystallised from toluene to give 80.7 g of desired product, mp 80°-82° C.

reactant | sodium hydroxide | 16 g | [OH-].[Na+]
reactant | 3-benzylthio-5-mercapto-1,2,4-triazole | 89.2 g | C(C1=CC=CC=C1)SC1=NNC(=N1)S | C9H9N3S2
reactant | methyl iodide | 56.8 g | CI | CH3I
solvent | water | 60 ml | O | H2O
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
catalyst | benzyltriethylammonium chloride | 1 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 3-Benzylthio-5-methylthio-1,2,4-triazole | 80.7 g | C(C1=CC=CC=C1)SC1=NNC(=N1)SC | C10H11N3S2
